US09120819B2
Stage B: {3-[({3-[4-Amino-3-(methoxycarbonyl)-benzoyl]-2-methylindolizin-1-yl}oxy)methyl]phenoxy}acetic acid
The solution of 0.87 g (1.60 mmol) of methyl 2-amino-5-[(1-{[3-(2-tert-butoxy-2-oxoethoxy)benzyl]oxy}-2-methylindolizin-3-yl)carbonyl]benzoate in 3.0 ml of trifluoroacetic acid and 16 ml of dichloromethane at ambient temperature is stirred for 4 hours at ambient temperature. The reaction medium is poured into a saturated aqueous solution of sodium bicarbonate and the mixture is washed with ethyl acetate. The aqueous phase is acidified with a saturated aqueous solution of potassium hydrogen sulphate and then extracted with ethyl acetate. The organic phase is washed with a saturated aqueous solution of sodium chloride, dried over sodium sulphate and concentrated under reduced pressure. 0.69 g (88%) of a green solid is obtained.

reactant | methyl 2-amino-5-[(1-{[3-(2-tert-butoxy-2-oxoethoxy)benzyl]oxy}-2-methylindolizin-3-yl)carbonyl]benzoate | 1.60 mmol, 0.87 g | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)OCC1=CC(=CC=C1)OCC(=O)OC(C)(C)C)C | C31H32N2O7
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | trifluoroacetic acid | 3.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
product | {3-[({3-[4-Amino-3-(methoxycarbonyl)-benzoyl]-2-methylindolizin-1-yl}oxy)methyl]phenoxy}acetic acid | 0.69 g, 88% | NC1=C(C=C(C(=O)C2=C(C(=C3C=CC=CN23)OCC=2C=C(OCC(=O)O)C=CC2)C)C=C1)C(=O)OC | C27H24N2O7
